US08008307B2
Step d: Benzyl-[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)-silyl]oxy}methyl)cyclopentyl]carbamate
To a solution of (1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentanamine (0.098 g, 0.00027 mol) in Methylene chloride (2.0 mL, 0.031 mol) at 0° C. was added triethylamine (0.076 mL, 0.00054 mol) and benzyl chloroformate (0.044 mL, 0.00031 mol). The reaction was warmed to 23° C. overnight. The reaction was quenched by addition of water3 and the mixture was extracted with methylene chloride (3×). The organic layers were washed with brine, dried (Na2SO4), filtered and concentrated. The residue was purified by flash chromatography (0 to 8% EtOAc/hexanes) to obtain 73 mg (54%).

reactant | (1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentanamine | 0.00027 mol, 0.098 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)N | C18H41NO2Si2
reactant | Methylene chloride | 0.031 mol, 2.0 mL | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 0.00054 mol, 0.076 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 0.00031 mol, 0.044 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | Benzyl-[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)-silyl]oxy}methyl)cyclopentyl]carbamate | C(C1=CC=CC=C1)OC(N[C@H]1C[C@@H]([C@@H](C1)CO[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)=O | C26H47NO4Si2
